US06380218B1
(R)-(+)-2-(3-Acetyl-phenoxy)-N-(4-(1-hydroxy-ethyl)-benzyl)-nicotinamide
Prepared from 2-(3-Acetyl-phenoxy)-nicotinic acid and (R)-(+)-1-(4-Aminomethyl-cyclohexyl)-ethanol. mp 104-6° C. αD (CHCl3) +14.0°.

reactant | 2-(3-Acetyl-phenoxy)-nicotinic acid | C(C)(=O)C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C14H11NO4
reactant | (R)-(+)-1-(4-Aminomethyl-cyclohexyl)-ethanol | NCC1CCC(CC1)[C@@H](C)O | C9H19NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (R)-(+)-2-(3-Acetyl-phenoxy)-N-(4-(1-hydroxy-ethyl)-benzyl)-nicotinamide | C(C)(=O)C=1C=C(OC2=C(C(=O)NCC3=CC=C(C=C3)[C@@H](C)O)C=CC=N2)C=CC1 | C23H22N2O4
